US20010049371A1
A mixture of N-Benzyloxy-3-(3-ethoxy-4-methoxyphenyl)-3-(4-nitrophthalimido)propionamide (2.3 g, 4.42 mmol) and Pd(OH)2/C (600 mg) in ethyl acetate/methanol/tetrahydrofuran (150 mL each) was shaken under hydrogen. After 24 hours the suspension was filtered through a pad of Celite, and then was washed with methanol (30 mL) and methylene chloride (30 mL). The filtrate was concentrated in vacuo to give an oil. The oil was stirred with ethyl acetate (10 mL) to afford 3-(4-aminophthalimido)-3-(3-ethoxy-4-methoxyphenyl)-N-hydroxypropionamide as a yellow solid (1.8 g, 100% yield): mp, 193.0-195.0° C.; 1H NMR (DMSO-d6) δ1.31 (t, J=6.9 Hz, 3H, CH3), 3.05 (d, J=7.9 Hz, 2H, CH2), 3.71 (s, 3H, CH3), 3.96 (q, J=7.0 Hz, 2H, CH2), 5.57 (t, J=7.9 Hz, 1H, NCH), 6.47 (br s, 2H, NH2), 6.77 (dd, J=2.0, 8.3 Hz, 1H, Ar), 6.83-6.88 (m, 3H, Ar), 6.99 (br s, 1H, Ar), 7.45 (d, J=8.3 Hz, 1H, Ar), 8.78 (br s, 1H, OH), 10.55 (1H, NH); 13C NMR (DMSO-d6) δ14.69, 34.51, 49.75, 55.45, 63.73, 106.82, 111.74, 112.38, 116.32, 116.73, 119.60, 124.89, 131.85, 134.18, 147.62, 148.42, 155.00, 166.111, 167.70, 168.00; Anal Calcd for C20H21N3O6: C, 60.14; H, 5.30; N, 10.52. Found: C, 60.00; H, 5.34; N, 10.30.

reactant | N-Benzyloxy-3-(3-ethoxy-4-methoxyphenyl)-3-(4-nitrophthalimido)propionamide | 4.42 mmol, 2.3 g | C(C1=CC=CC=C1)ONC(CC(N1C(C=2C(C1=O)=CC(=CC2)[N+](=O)[O-])=O)C2=CC(=C(C=C2)OC)OCC)=O | C27H25N3O8
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate methanol tetrahydrofuran | 150 mL | C(C)(=O)OCC.CO.O1CCCC1
catalyst | Pd(OH)2/C | 600 mg | [OH-].[OH-].[Pd+2]
product | 3-(4-aminophthalimido)-3-(3-ethoxy-4-methoxyphenyl)-N-hydroxypropionamide | 1.8 g, 100% yield | NC=1C=C2C(C(=O)N(C2=O)C(CC(=O)NO)C2=CC(=C(C=C2)OC)OCC)=CC1 | C20H21N3O6
